US07202257B2
Ethyl bromoacetate is reacted with para-nitrophenol under standard conditions to afford ethyl 2-(4-nitrophenoxy)acetate, which is elaborated to ethyl 2-(4-hydrazinophenoxy)acetate using the reduction/oxidation sequence described for Example Y.

reactant | Ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | para-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | ethyl 2-(4-nitrophenoxy)acetate | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC)C=C1 | C10H11NO5
